US07541472B2
A mixture of 59 mg (0.26 mmol) of 3,4-dichlorophenylmethyl acrylate, 27 mg (0.24 mmol) of 2-thiazolecarboxaldehyde, and 31 mg (0.28 mmol) of DABCO was thoroughly shaken on a Vortex mixer, and then stored at 0° C. overnight. The product was purified by prep HPLC to give 34 mg (0.10 mmol; 42% yield) of the desired Baylis-Hillman adduct, 3,4-dichlorophenylmethyl β-hydroxy-α-methylene-2-thiazolepropanoate. 1H NMR (CDCl3): δ 5.12 (2H), 5.76 (1H), 6.07 (1H), 6.49 (1H), 7.12 (d of d, 1H), 7.71 ppm (d, 1H) MS m/z: 344.0 (M+H).

reactant | 3,4-dichlorophenylmethyl acrylate | 0.26 mmol, 59 mg | C(C=C)(=O)OCC1=CC(=C(C=C1)Cl)Cl | C10H8Cl2O2
reactant | 2-thiazolecarboxaldehyde | 0.24 mmol, 27 mg | S1C(=NC=C1)C=O | C4H3NOS
reactant | DABCO | 0.28 mmol, 31 mg | C1CN2CCN1CC2 | C6H12N2
product | 3,4-dichlorophenylmethyl β-hydroxy-α-methylene-2-thiazolepropanoate | 42% yield | OC(C(C(=O)OCC1=CC(=C(C=C1)Cl)Cl)=C)C=1SC=CN1 | C14H11Cl2NO3S
